US09079916B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-(2-chlorobenzyl)pyridin-3-yl)cyclopropanecarboxamide was synthesized using the procedure of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxybenzyl)pyridin-3-yl)cyclopropanecarboxamide from (2-chlorobenzyl)zinc(II) chloride and 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxybenzyl)pyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)CC2=C(C=CC=C2)OC | C24H22N2O4
reactant | (2-chlorobenzyl)zinc(II) chloride | [Cl-].ClC1=C(C[Zn+])C=CC=C1
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)Br | C16H13BrN2O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-(2-chlorobenzyl)pyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)CC2=C(C=CC=C2)Cl | C23H19ClN2O3
